US04593102
3-[(4-Chlorophenyl)sulfonyl]-N-[2-(diethylamino)ethyl]-1-pyrrolidinecarboxamide
A solution of 4.93 g (0.0304 mole) of 1,1'-carbonyldiimidazole and 3.36 g (0.029 mole) of N,N-diethylaminoethylamine in 200 ml of tetrahydrofuran was stirred for 40 min at room temperature. A solution of 5.78 g (0.0236 mole) of 3-[(4-chlorophenyl)sulfonyl]pyrrolidine (free base) in tetrahydrofuran was added and the solution was refluxed overnight. The solvent was removed in vacuo and the resulting oil was dissolved in methylene chloride. The solution was extracted with several portions of water and was dried over magnesium sulfate. The solvent was removed in vacuo to give an oil residue. The residue was crystallized from a mixture of methanol, ether and hexane to give 4.28 g (46.7%) of white crystals, m.p. 86°-87.5° C.

reactant | 1,1'-carbonyldiimidazole | 0.0304 mole, 4.93 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N,N-diethylaminoethylamine | 0.029 mole, 3.36 g | C(C)NN(NCC)CC | C6H17N3
reactant | 3-[(4-chlorophenyl)sulfonyl]pyrrolidine | 0.0236 mole, 5.78 g | ClC1=CC=C(C=C1)S(=O)(=O)C1CNCC1 | C10H12ClNO2S
reactant | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 3-[(4-Chlorophenyl)sulfonyl]-N-[2-(diethylamino)ethyl]-1-pyrrolidinecarboxamide | 4.28 g, 46.7% | ClC1=CC=C(C=C1)S(=O)(=O)C1CN(CC1)C(=O)NCCN(CC)CC | C17H26ClN3O3S
